US08008298B2
(1-Methyl-cyclohexyl)-[2-(4-piperidin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperidine following general procedures as described in these Examples. MP 234-236° C., M+H=403.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-piperidine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCCCC1)C | C17H26BNO2
product | (1-Methyl-cyclohexyl)-[2-(4-piperidin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C(C=C2)N2CCCCC2 | C25H30N4O
